US04271164
4-Amino-6-methylpyrimidine-5-carboxaldehyde is then condensed with 2,6-dichlorophenylacetonitrile. The crude product is isolated by concentrating the reaction mixture to dryness and partitioning the residue between chloroform and water. Drying and concentration of the organic layer gives a residue which is chromatographed on silica gel. The product is eluted with 1/99 mixture of methanol/chloroform and recrystallized from ethanol to give pure 6-(2,6-dichlorophenyl)-4-methylpyrido[2,3-d]pyrimidin-7-amine, mp 280°-282° C.

reactant | 4-Amino-6-methylpyrimidine-5-carboxaldehyde | NC1=NC=NC(=C1C=O)C | C6H7N3O
reactant | 2,6-dichlorophenylacetonitrile | ClC1=C(C(=CC=C1)Cl)CC#N | C8H5Cl2N
product | 6-(2,6-dichlorophenyl)-4-methylpyrido[2,3-d]pyrimidin-7-amine | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=CN=C2C)N=C1N | C14H10Cl2N4
